US07358370B2
2-Bromo-4-(2,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-benzonitrile (107.2 mg, 0.3 mmol), aniline (111.8 mg, 1.2 mmol), Pd(OAc)2 (10.1 mmol, 5 mol %), DPPF (16.6 mg, 10 mol %), and NaOtBu (57.7 mg, 0.6 mmol) were placed in a Personal Chemistry Microwave Vial. The reagents were suspended in 2.5 mL of anhydrous toluene and the vessel purged with nitrogen. The reaction vessel was sealed and heated to 110° C. for 480 seconds. Upon cooling, the reaction mixture was filtered through SiO2 (eluted with 2:1 EtOAc/hexanes) and the eluent concentrated in vacuo. The residue was then dissolved in 2 mL EtOH and treated with 0.6 mL of 1 N NaOH and a catalytic amount of H2O2. After stirring this solution at 50° C. for 2 hours, the mixture of nitrile and amide was purified by column chromatography (silica, EtOAc/hexanes). The product 2-(phenylamino)-4-(2,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindol-1-yl)benzamide was isolated as a yellow powder (55.6 mg, 47%). (100% clean by LC/MS, product M+H=388.1). The corresponding nitrile was also isolated (46.9 mg, 42%). (100% clean by LC/MS).

reactant | 2-Bromo-4-(2,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydro-indol-1-yl)-benzonitrile | 0.3 mmol, 107.2 mg | BrC1=C(C#N)C=CC(=C1)N1C(=CC=2C(CC(CC12)(C)C)=O)C | C18H17BrN2O
reactant | aniline | 1.2 mmol, 111.8 mg | NC1=CC=CC=C1 | C6H7N
reactant | NaOtBu | 0.6 mmol, 57.7 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 10.1 mmol | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | DPPF | 16.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-(phenylamino)-4-(2,6,6-trimethyl-4-oxo-4,5,6,7-tetrahydroindol-1-yl)benzamide | C1(=CC=CC=C1)NC1=C(C(=O)N)C=CC(=C1)N1C(=CC=2C(CC(CC12)(C)C)=O)C | C24H25N3O2
